US07456164B2
Intermediate 77: 4-({4-[4-(azetidin-3-ylmethoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)-morpholine
A solution of 4-{[4-(4-{[1-(benzhydryl)azetidin-3-yl]methoxy}phenyl)tetrahydro-2H-pyran-4-yl]methyl}-morpholine (1.0 g, 1.95 mmol) in ethanol (10 mL) was hydrogenated for 16 hours at room temperature at 60 psi in the presence of Pd(OH)2/C (150 mg, 15% w/w). 2N Hydrochloric acid (few drops) was added and the reaction mixture hydrogenated for 16 hours at 60° C. at 60 psi. The reaction mixture was basified with aqueous sodium carbonate and the mixture filtered over Arbocel® and rinsed with ethanol. The filtrate was concentrated in vacuo. The residue was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.4 to 90:10:1 by volume) to provide the title compound (210 mg, 31%). HRMS ESI+ m/z 347.2323 [MH]+.

reactant | 4-{[4-(4-{[1-(benzhydryl)azetidin-3-yl]methoxy}phenyl)tetrahydro-2H-pyran-4-yl]methyl}-morpholine | 1.95 mmol, 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN1CCOCC1 | C33H40N2O3
reactant | Hydrochloric acid | 2N | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 150 mg | [OH-].[OH-].[Pd+2]
product | 4-({4-[4-(azetidin-3-ylmethoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)-morpholine | 210 mg, 31% | N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN1CCOCC1 | C20H30N2O3
